2181-03-13 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2181-3-12**] 12:45 PM
 TRANSTHORACIC ECHO - At [**2181-3-12**] 01:20 PM
   --CT Torso indicated a multifocal PNA, did not indicate acute
   cholecystitis
   --Does not need perc chole
   --ECHO: EF 10%, low cardiac index, appears non coronary
   -ASA restarted at 325mg daily given positive cardiac enzymes
   -ID approval obtained for abx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-3-12**] 08:00 AM
   Metronidazole - [**2181-3-13**] 12:14 AM
   Piperacillin - [**2181-3-13**] 04:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-13**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 89 (85 - 102) bpm
   BP: 86/44(56) {72/43(51) - 123/83(98)} mmHg
   RR: 17 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (6 - 18)mmHg
   Mixed Venous O2% Sat: 85 - 93
   Total In:
                                                                  2,202 mL
                                                                    341 mL
   PO:
   TF:
   IVF:
                                                                  1,682 mL
                                                                    341 mL
   Blood products:
                                                                    520 mL
   Total out:
                                                                  1,400 mL
                                                                    475 mL
   Urine:
                                                                  1,000 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    802 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   GENERAL:  NAD, pleasant
   HEENT: watery eyes, anicteric sclera, dry mm
   CARDIAC:  distant heart sounds, tachycardic, no MRG
   LUNG:  CTA bilaterally, decreased bs at bases, loud rhonchorus upper
   airway sounds that improved with cough. Mildly labored breathing with
   talking, able to finish full sentences.
   ABDOMEN: + bs, soft, RUQ tenderness, no rebound, no guarding
   EXT:  warm, dry
   NEURO:  a+o x 3, no focal deficits.
   DERM:  No rashes, small scattered ecchymoses, warm, dry
   Labs / Radiology
   [**2181-3-12**] ECHO:
   The left atrium is moderately dilated. Left ventricular wall
   thicknesses are normal. The left ventricular cavity is moderately
   dilated. Tissue Doppler imaging suggests an increased left ventricular
   filling pressure (PCWP>18mmHg). Right ventricular chamber size and free
   wall motion are normal. The right ventricular cavity is moderately
   dilated with depressed free wall contractility. The aortic root is
   mildly dilated at the sinus level. There are three aortic valve
   leaflets. The aortic valve leaflets are moderately thickened. There is
   critical aortic valve stenosis (valve area <0.8cm2). No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Mild (1+) mitral regurgitation is seen. The tricuspid valve leaflets
   are mildly thickened. There is mild pulmonary artery systolic
   hypertension. There is no pericardial effusion.
   IMPRESSION: moderately dilated left ventricle with severe global LV
   hypokinesis. Dilated and hypokinetic RV. The mid lateral wall has
   relatively preserved function. Calcific aortic stenosis that is
   probably severe/critical - low flow state makes calculation of valve
   area difficult. Mild mitral regurgitation.
   [**2181-3-12**] CT TORSO: pending
   [**2181-3-12**] RUQ US: Gallbladder neck stone with gallbladder wall edema
   concerning for acute cholecystitis in the appropriate clinical setting
   MICRO:
   [**2181-3-12**] Sputum cx: GPC and yeast
   [**2181-3-12**] Blood cx: pending
   [**2181-3-12**] C. diff toxin: negative x 1
   181 K/uL
   11.4 g/dL
   146 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.9 mEq/L
   36 mg/dL
   108 mEq/L
   139 mEq/L
   34.3 %
   20.4 K/uL
        [image002.jpg]
                             [**2181-3-12**]  06:25 AM
                             [**2181-3-12**]  02:11 PM
                             [**2181-3-12**]  11:47 PM
                             [**2181-3-13**]  04:09 AM
   WBC
   13.3
   20.4
   Hct
   31.0
   34.3
   Plt
   142
   181
   Cr
   1.3
   1.5
   TropT
   0.41
   0.59
   0.67
   0.67
   Glucose
   176
   146
   Other labs: PT / PTT / INR:18.7/39.2/1.7, CK / CKMB /
   Troponin-T:115/12/0.67, ALT / AST:19/33, Alk Phos / T Bili:58/0.8,
   Differential-Neuts:74.0 %, Band:16.0 %, Lymph:5.0 %, Mono:3.0 %,
   Eos:1.0 %, Lactic Acid:1.7 mmol/L, LDH:245 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHOLECYSTITIS, ACALCULOUS
   81 year old man with a history of CHF, Afib, COPD and DM2 presented to
   an OSH after several days of nausea, vomiting, and diarrhea with new
   onset altered mental status.  He was found to be febrile, hypotensive,
   and hypoglycemic.  He was transferred to [**Hospital1 19**] for further management
   of sepsis.
   #  Sepsis: source likely pneumonia.
   -continue vanc/ zosyn
   -increase in wbc but no continued fevers, add on differential to see if
   bandemia is improving
   -given concern for cholecystitis add on LFTs
   -C diff neg x 1, repeat C diff
   -attempt to wean pressors: trend central venous O2, lactate and UOP
   -f/u final sputum (GPC in clusters)  and blood cx
   -f/u [**Hospital3 **]
   #  Paroxysmal Atrial Fibrillation:  On digoxin and coreg for rate
   control. Currently in sinus tachycardia.
   -INR now subtherapeutic, can restart Coumadin, start IV heparin gtt
   #  Acute on Chronic renal failure: Baseline Cr 1.3, currently 1.5.
   -likely related to contrast CT scan and contrast nephropathy however
   this may be too early
   -trend
   -send u/a and urine lytes
   -re-renally dose meds
   # DM2: HISS
   # Chronic systolic CHF: History of dilated cardiomyopathy with severe
   AS- EF currently 10%.
   -repeat ScVO2 and lactate when pressors weaned off
   - will attempt to start acei and b-blocker when hemodynamically stable
   # Elevated troponin: Likely demand vs. NSTEMI
   - increased Lipitor to 80 mg daily given possible ACS
   -start IV heparin gtt and continue full dose ASA
   -continue to trend until TnT peaks
   - restart beta blocker when hemodynamically stable.
   # Anemia: At baseline of 33
   # FEN: IVFs / replete lytes prn / regular cardiac diet
   # PPX: home PPI, supratherapeutic INR, pneumaboots, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 854**] (son)
   # ICU CONSENT: pending
   # DISPO: ICU until stable off pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-3-12**] 03:00 AM
   Prophylaxis:
   DVT: Boots, Heparin IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2181-03-13 09:33:00 Physician Attending Progress Note
Chief Complaint:  cough, RUQ pain
   HPI: RLL PNA
   24 Hour Events:
   TTE obtained with EF 10%; troponins elevated but not c/w acs
   Chest CT with RLL pneumonia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-3-12**] 08:00 AM
   Piperacillin - [**2181-3-13**] 04:00 AM
   Metronidazole - [**2181-3-13**] 08:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2181-3-13**] 08:00 AM
   Other medications:
   lipitor 10
   prilosec 40
   vanc 1g
   RISS
   levophed
   flagyl 500 q 8
   atrovent
   albuterol
   asa 325
   zosyn 2.25 q6 hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-13**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.9
   HR: 91 (85 - 102) bpm
   BP: 104/63(73) {72/43(51) - 123/83(98)} mmHg
   RR: 19 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 14 (6 - 18)mmHg
   Mixed Venous O2% Sat: 85 - 93
   Total In:
                                                                  2,202 mL
                                                                    463 mL
   PO:
   TF:
   IVF:
                                                                  1,682 mL
                                                                    463 mL
   Blood products:
                                                                    520 mL
   Total out:
                                                                  1,400 mL
                                                                    505 mL
   Urine:
                                                                  1,000 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    802 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General: Uncomfortable appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: rll, Rhonchorous: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   181 K/uL
   146 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.9 mEq/L
   36 mg/dL
   108 mEq/L
   139 mEq/L
   34.3 %
   20.4 K/uL
         [image002.jpg]
                             [**2181-3-12**]  06:25 AM
                             [**2181-3-12**]  02:11 PM
                             [**2181-3-12**]  11:47 PM
                             [**2181-3-13**]  04:09 AM
   WBC
   13.3
   20.4
   Hct
   31.0
   34.3
   Plt
   142
   181
   Cr
   1.3
   1.5
   TropT
   0.41
   0.59
   0.67
   0.67
   Glucose
   176
   146
   Other labs: PT / PTT / INR:18.7/39.2/1.7, CK / CKMB /
   Troponin-T:115/12/0.67, ALT / AST:19/33, Alk Phos / T Bili:58/0.8,
   Differential-Neuts:74.0 %, Band:16.0 %, Lymph:5.0 %, Mono:3.0 %,
   Eos:1.0 %, Lactic Acid:1.7 mmol/L, LDH:245 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: CVO2 - 93%
   Lactate 1.7
   Imaging: TTE: EF 10-15%, dilated LV, dilated hypokinetic RV, Calcific
   AS with [**Location (un) 342**] < 0.8 and gradient 12, 1+ MR
   CT torso: RLL infiltrate
   Microbiology: blood cultures 3/29 - ngtd
   Cdif [**3-12**] - negative
   Sputum gram stain - 4+ gpc pairs and clusters
   Assessment and Plan
   81 yo M CHF, CM, AS, DM2, presents with Sepsis, likely [**1-16**] PNA
   1. Sepsis: Weaning pressors, Lactate trending down, uop improving,
   likely [**1-16**] pneumonia c/b cardiomyopathy
    - wean pressors to off, gentle fluids, increase PO intake
    - monitor lactate, CVO2 sat, UOP, while off pressors
    - f/u OSH and [**Hospital1 19**] culture data
    - cont vanc/zosyn/flagyl for now
   2. PAF: sinus right now, cont to hold nodal agents although may need
   low dose beta blockade if HR > 110
   3. Creatinine rise: dye load vs cardiogennic shock
    - f/u urine lytes
    - f/u vanc level
   4. PNA:
    - cont abx
    - chest PT
    - oob to chair
   5. dilated cardiomyopathy:
    - restart BB when BP improves, statin, asa
   6. ACS/AF:
    - cont asa, start heparin until INR > 2
    - cont cycle cardiac enzymes until trending down
    - increase lipitor 80mg
   7. FEN:
    - replete lytes..encourage PO intake
   ICU Care
   Nutrition:  advance diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-3-12**] 03:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 mins
   Patient is critically ill

2181-03-16 11:00:00 Physician Attending Progress Note
Chief Complaint:  shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: sepsis with RLL pneumonia, cardiogenic shock
   24 Hour Events:
   zosyn changed to cefepime for narrower coverage pseudomonas
   off pressor x 3 hours, then while sleeping had decreased MAPs and UOP
   and these were restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2181-3-14**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-15**] 04:00 PM
   Cefipime - [**2181-3-15**] 06:48 PM
   Vancomycin - [**2181-3-16**] 08:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2181-3-15**] 10:33 AM
   Omeprazole (Prilosec) - [**2181-3-16**] 08:00 AM
   Other medications:
   asa 325
   cefepime 2 q 24
   lopressor 12.5 tid
   vanc 1.5 q24
   atorvastatin
   atrovent
   omeprazole
   riss
   albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Musculoskeletal: Joint pain, L wrist pain
   Flowsheet Data as of  [**2181-3-16**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 100 (83 - 112) bpm
   BP: 112/58(75) {86/35(53) - 134/71(92)} mmHg
   RR: 22 (17 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: -22 (-22 - 16)mmHg
   Mixed Venous O2% Sat: 53 - 98
   Total In:
                                                                    746 mL
                                                                    435 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                    696 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    262 mL
   Urine:
                                                                  1,505 mL
                                                                    262 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -759 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, L wrist swelling, anterior fluid collection
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Decreased
   Labs / Radiology
   10.5 g/dL
   215 K/uL
   113 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   44 mg/dL
   107 mEq/L
   138 mEq/L
   31.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2181-3-12**]  11:47 PM
                             [**2181-3-13**]  04:09 AM
                             [**2181-3-13**]  05:23 PM
                             [**2181-3-14**]  03:58 AM
                             [**2181-3-14**]  03:11 PM
                             [**2181-3-15**]  03:39 AM
                             [**2181-3-15**]  03:49 AM
                             [**2181-3-15**]  10:38 AM
                             [**2181-3-15**]  10:57 AM
                             [**2181-3-16**]  05:08 AM
   WBC
   20.4
   21.3
   13.6
   14.0
   Hct
   34.3
   33.2
   30.8
   32.8
   34
   31.8
   Plt
   181
   199
   192
   215
   Cr
   1.5
   1.7
   1.6
   1.5
   1.4
   TropT
   0.67
   0.67
   0.62
   TCO2
   24
   Glucose
   146
   131
   281
   87
   113
   Other labs: PT / PTT / INR:36.2/40.5/3.7, CK / CKMB /
   Troponin-T:68/12/0.62, ALT / AST:31/44, Alk Phos / T Bili:72/0.7,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:5.1 %, Eos:0.6
   %, Lactic Acid:1.3 mmol/L, LDH:245 IU/L, Ca++:8.7 mg/dL, Mg++:1.8
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   81 yo M CHF, ICM, here w MRSA sepsis/pna
   1. MRSA bacteremia/pna:
    - cont vanc and f/u level [**3-17**]
   2. HoTN: sepsis with cardiiomyopathy
    - cont wean pressors
    - f/u cdif
   3. Heart failure:
    - volume status appears even
    - will hold off diuresis, aim tbb even, encourage POs
    - wean pressors as tolerated
   4. Afib:
    - lopressor 12.5 tid, aim for HR < 100
    - will restart home digoxin [**3-17**]
   5. A/C:
    - coumadin on H with INR > 3
   6. AoCRF:
    - improving
   7. Wrist pain: septic joint vs gout, restart allopurinol and colchicine
    - will consult rheum for assistance with tapping joint
    - plain film
    - empiric gout tx with colchicine (was on as outpt)
   8. CAD:
    - asa, bb, statin
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-3-12**] 03:00 AM
   Arterial Line - [**2181-3-13**] 11:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2181-03-17 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   seen by rheum for r wrist swelling/pain and refused tap
   started colchicine and allopurinol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-15**] 04:00 PM
   Vancomycin - [**2181-3-16**] 08:00 AM
   Cefipime - [**2181-3-17**] 07:53 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   asa
   vanc 1500 ( [**1-16**] level 21.5)
   cefepime
   colchicine
   allopurinol
   standing tylenol 650
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-17**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.4
C (95.7
   HR: 102 (81 - 102) bpm
   BP: 117/61(78) {82/37(53) - 121/61(79)} mmHg
   RR: 24 (15 - 39) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.4 kg (admission): 81.5 kg
   Height: 68 Inch
             Total In:
                                                                    958 mL
                                                                    663 mL
   PO:
                                                                    210 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    748 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                    712 mL
                                                                    292 mL
   Urine:
                                                                    712 mL
                                                                    292 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    246 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, L wrist warm, edematous, painful to touch and movement
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   190 K/uL
   123 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.2 mEq/L
   44 mg/dL
   108 mEq/L
   138 mEq/L
   31.9 %
   11.3 K/uL
        [image002.jpg]
                             [**2181-3-13**]  04:09 AM
                             [**2181-3-13**]  05:23 PM
                             [**2181-3-14**]  03:58 AM
                             [**2181-3-14**]  03:11 PM
                             [**2181-3-15**]  03:39 AM
                             [**2181-3-15**]  03:49 AM
                             [**2181-3-15**]  10:38 AM
                             [**2181-3-15**]  10:57 AM
                             [**2181-3-16**]  05:08 AM
                             [**2181-3-17**]  04:21 AM
   WBC
   20.4
   21.3
   13.6
   14.0
   11.3
   Hct
   34.3
   33.2
   30.8
   32.8
   34
   31.8
   31.9
   Plt
   181
   199
   192
   215
   190
   Cr
   1.5
   1.7
   1.6
   1.5
   1.4
   1.4
   TropT
   0.67
   0.62
   TCO2
   24
   Glucose
   146
   131
   281
   87
   113
   123
   Other labs: PT / PTT / INR:39.2/43.3/4.1, CK / CKMB /
   Troponin-T:68/12/0.62, ALT / AST:31/44, Alk Phos / T Bili:72/0.7,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:5.1 %, Eos:0.6
   %, Lactic Acid:1.6 mmol/L, LDH:245 IU/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   1. MRSA bacteremia/pna + Pseudomonas:
    - intermittent pressor requirement likely cardiogenic with some
   inappropriate vasodilitation
    - cont vanc/cefepime
    - will continue to discuss tap of wrist with patient
   2. L wrist swelling: pt with h/o gout, likely gout flare but in setting
   of MRSA bacteremia concerning for septic joint
    - will continue to discuss tapping joint with patient
   3. HoTN:
    - aim tbb even
    - f/u CVP
    - intermittent pressors as needed
   4. Atrial fibrillation:
    - cont lopressor 12.5 tid to maintain HR < 100
   - hold for MAP < 55
   5. FEN:
    - cont cardiac diet
    - nutrition c/s with calorie count
   6. D<2: RISS
   7. CAD: asa, bb, statin
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-3-12**] 03:00 AM
   Arterial Line - [**2181-3-13**] 11:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2181-03-18 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Admitted with MRSA pneumonia/bacteremia, EF 10%, gout ?acute vs septic
   joint of left wrist. Also being tx w Cefep for pseud in sputum. Wrist
   not tapped d/t INR
   24 Hour Events:
   Continues to have intermittent pressor requirement to maintain MAP >
   60, UOP
   Wrist remains painful despite Vanc x 6.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-15**] 04:00 PM
   Vancomycin - [**2181-3-17**] 04:00 PM
   Cefipime - [**2181-3-18**] 08:18 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2181-3-18**] 08:19 AM
   Other medications:
   cefepime
   vanco
   tylenol standing
   asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-18**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 91 (81 - 99) bpm
   BP: 106/53(69) {79/36(45) - 123/63(82)} mmHg
   RR: 22 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.4 kg (admission): 81.5 kg
   Height: 68 Inch
   CVP: 14 (6 - 20)mmHg
   CO/CI (Fick): (4.1 L/min) / (2.1 L/min/m2)
   Mixed Venous O2% Sat: 43 - 53
   Total In:
                                                                  1,898 mL
                                                                    327 mL
   PO:
                                                                    620 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,278 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    697 mL
                                                                    405 mL
   Urine:
                                                                    697 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,201 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, tender left wrist, no cellulitis
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   172 K/uL
   96 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.1 mEq/L
   41 mg/dL
   108 mEq/L
   139 mEq/L
   31.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2181-3-14**]  03:58 AM
                             [**2181-3-14**]  03:11 PM
                             [**2181-3-15**]  03:39 AM
                             [**2181-3-15**]  03:49 AM
                             [**2181-3-15**]  10:38 AM
                             [**2181-3-15**]  10:57 AM
                             [**2181-3-16**]  05:08 AM
                             [**2181-3-17**]  04:21 AM
                             [**2181-3-17**]  04:58 PM
                             [**2181-3-18**]  04:53 AM
   WBC
   21.3
   13.6
   14.0
   11.3
   8.6
   Hct
   33.2
   30.8
   32.8
   34
   31.8
   31.9
   31.1
   Plt
   199
   192
   215
   190
   172
   Cr
   1.7
   1.6
   1.5
   1.4
   1.4
   1.4
   1.3
   TCO2
   24
   Glucose
   131
   281
   87
   113
   123
   130
   96
   Other labs: PT / PTT / INR:39.2/43.3/4.1, CK / CKMB /
   Troponin-T:68/12/0.62, ALT / AST:31/44, Alk Phos / T Bili:72/0.7,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:5.1 %, Eos:0.6
   %, Lactic Acid:0.9 mmol/L, LDH:245 IU/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   81 yo M AS, CM, 3VD, here with MRSA pna/bacteremia and now persistent
   HoTN
   1. Shock: now more consistent with cardiogenic picture with
   innapropriate peripheral vasolidation
    - continue intermittent levophed to maintain MAP > 55, UOP >
   0.5mg/kg/hr, CVO2
    - Appears hypervolemic, will aim TBB -500 - 1L today
    - holding ACEi [**1-16**] hotn and renal failure
    - holding BB in setting of acute heart failure and HR < 90
    - wrap lower extremities for LE edema
   2. Pneumonia: MRSA PNA with likely pseudomonal colonization
    - cont vanc 1250 per ID
    - cont cefepime total 7 days
    - appreciate ID input
    - cont pulmonary toilet
   3. AoCRF:
    - prerenal, cont monitor
   4. CAD: cont asa, statin, holding bb for now. Will maybe need repeat
   echo this week
   5. L wrist pain: increased pain today despite colchicine and
   allopurinol.  Although risk remains for septic joint, this has
   progressed on appropirate abx, and unable to tap joint [**1-16**]
   supratherapeutic INR, therefore will give 3 day trial of prednisone 20
   mg po for patient comfort
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-3-12**] 03:00 AM
   Arterial Line - [**2181-3-13**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2181-03-19 11:02:00 Physician Attending Progress Note
Chief Complaint:  Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: MRSA and pseudomonas PNA, Ischemic CM
   24 Hour Events:
   Started prednisone 20 mg for 3 days to treat possible gout
   began diuresis but only 250cc negative
   off pressors x 24 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-3-18**] 10:15 AM
   Cefipime - [**2181-3-19**] 08:16 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-3-18**] 11:01 AM
   Other medications:
   asa 325
   atorvastatin
   omeprazole
   riss
   cefepime 1 [**Hospital1 **]
   colchicine 0.6 qdy
   allopurinol
   acetominophen
   pred 20
   vanc 1250 q 24
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-19**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 96 (81 - 107) bpm
   BP: 99/48(63) {82/42(56) - 110/63(77)} mmHg
   RR: 24 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.4 kg (admission): 81.5 kg
   Height: 68 Inch
   CVP: 24 (8 - 24)mmHg
   Total In:
                                                                    991 mL
                                                                    155 mL
   PO:
                                                                    375 mL
   TF:
   IVF:
                                                                    616 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    465 mL
   Urine:
                                                                  1,190 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -199 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous:
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Decreased
   Labs / Radiology
   10.0 g/dL
   183 K/uL
   144 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   42 mg/dL
   109 mEq/L
   139 mEq/L
   31.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2181-3-14**]  03:11 PM
                             [**2181-3-15**]  03:39 AM
                             [**2181-3-15**]  03:49 AM
                             [**2181-3-15**]  10:38 AM
                             [**2181-3-15**]  10:57 AM
                             [**2181-3-16**]  05:08 AM
                             [**2181-3-17**]  04:21 AM
                             [**2181-3-17**]  04:58 PM
                             [**2181-3-18**]  04:53 AM
                             [**2181-3-19**]  03:51 AM
   WBC
   13.6
   14.0
   11.3
   8.6
   8.0
   Hct
   30.8
   32.8
   34
   31.8
   31.9
   31.1
   31.6
   Plt
   192
   215
   190
   172
   183
   Cr
   1.6
   1.5
   1.4
   1.4
   1.4
   1.3
   1.3
   TCO2
   24
   Glucose
   [**Telephone/Fax (2) 14427**]3
   130
   96
   144
   Other labs: PT / PTT / INR:44.0/43.3/4.7, CK / CKMB /
   Troponin-T:68/12/0.62, ALT / AST:31/44, Alk Phos / T Bili:72/0.7,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:5.1 %, Eos:0.6
   %, Lactic Acid:0.9 mmol/L, LDH:245 IU/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   81 yo M CHF, CAD, AS, here with MRSA pneumonia and bacteremia, with
   persistent cardiogenic shock
   1. Shock: improving septic shock but with poor cardiac inotropy to
   overcome peripheral vasodilation
   for septic component - cont monitor volume status, complete abx
   for cardiogenic component -
   2. L wrist pain: improving on prednisone and colchicine
   3. MRSA pneumonia
   4. Atrial fibrillation:
    - restart lopressor, holding digoxin, received one dose coumadin with
   persistent elevated INR
   5. Cardiomyopathy and aortic stenosis:
    - will continue to diurese aim negative 1 liter
    - will restart diovan in 24 hours if he remains hemodynamically stable
    - cont monitor cvo2 sat
   6. CAD: cont asa, statin, lopressor
   7. FEN: appears to be tolerating oral feeds
   8. Elevated INR: will give vit K today given persistently elevated INR
   9. Access: will need PICC placement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-3-12**] 03:00 AM
   Arterial Line - [**2181-3-13**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU today, hopefully floor tomorrow
   Total time spent: 35 minutes
   Patient is critically ill

2181-03-20 09:37:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: RLL pneumonia, sepsis
    81 yo M CHF/ICM who presented with MRSA pneumonia and bacteremia, as
   well as possible pseudomonal pneumonia
   24 Hour Events:
   The patient tolerated diuresis.  He has been off levophed for > 36
   hours.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-3-18**] 10:15 AM
   Cefipime - [**2181-3-20**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-3-19**] 08:55 PM
   Other medications:
   asa
   atorvastatin
   omeprazole
   cefepime
   colchicine
   haldol
   vanc
   prednisone 20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient reports improved pain and mobility of L
   wrist
   Flowsheet Data as of  [**2181-3-20**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 81 (72 - 101) bpm
   BP: 91/42(57) {87/42(54) - 116/65(81)} mmHg
   RR: 18 (11 - 34) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.4 kg (admission): 81.5 kg
   Height: 68 Inch
   CVP: 9 (8 - 24)mmHg
   Total In:
                                                                    800 mL
                                                                    320 mL
   PO:
                                                                    580 mL
                                                                    220 mL
   TF:
   IVF:
                                                                    220 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    445 mL
   Urine:
                                                                  1,180 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilaterally,
   Rhonchorous: L sided)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   226 K/uL
   125 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   42 mg/dL
   108 mEq/L
   137 mEq/L
   31.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2181-3-15**]  03:39 AM
                             [**2181-3-15**]  03:49 AM
                             [**2181-3-15**]  10:38 AM
                             [**2181-3-15**]  10:57 AM
                             [**2181-3-16**]  05:08 AM
                             [**2181-3-17**]  04:21 AM
                             [**2181-3-17**]  04:58 PM
                             [**2181-3-18**]  04:53 AM
                             [**2181-3-19**]  03:51 AM
                             [**2181-3-20**]  05:48 AM
   WBC
   13.6
   14.0
   11.3
   8.6
   8.0
   8.5
   Hct
   30.8
   32.8
   34
   31.8
   31.9
   31.1
   31.6
   31.3
   Plt
   192
   215
   190
   172
   183
   226
   Cr
   1.5
   1.4
   1.4
   1.4
   1.3
   1.3
   1.4
   TCO2
   24
   Glucose
   87
   113
   123
   130
   96
   144
   125
   Other labs: PT / PTT / INR:21.4/32.2/2.0, CK / CKMB /
   Troponin-T:68/12/0.62, ALT / AST:31/44, Alk Phos / T Bili:72/0.7,
   Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.4 %, Mono:5.1 %, Eos:0.6
   %, Lactic Acid:0.9 mmol/L, LDH:245 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   1. MRSA Pneumonia/bacteremia
    - Cont vancomycin day 10/6 weeks
    - day [**5-24**] cefepime for pseudomonal pna
    - picc today
   2. Wrist pain: improving with steroids
   - cont prednisone day [**2-16**]
    - cont colchicine and allopurinol
   3. Heart Failure:  he is likely still volume overloaded
    - cont gentle diuresis
    - wil need diovan and imdur restarted if he tolerates
    - he may benefit from further cardiology input regarding his worsened
   cardiomyopathy.  His outside cardiology is Dr [**Last Name (STitle) **].  The patient has
   discussed ICD placement in the past for secondary prevention in setting
   of low EF, however this was felt to be not within his overall goals of
   care (DNR/DNI).  At his last visit with his cardiologist, his
cardiac
   issues
 were deferred given his overall progression of pneumonia.
   4. AoCRF: likely [**1-16**] poor perfusion, but stable
   5. CAD: cont asa/bb/statin
   6. AFib:
    - will start coumadin tonight: 1 mg as he had vigorous response to 2.5
   mg but now s/p vit K
   7. FEN: tolerating PO diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-3-12**] 03:00 AM
   Arterial Line - [**2181-3-13**] 11:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill